US09193728B2
Preparation of 5-methyl-1-nitroso-2-phenylindoline
5-Methyl-2-phenylindoline (0.7 g, 0.00334 mol) was dissolved in ethanol (5 mL), and 1N hydrochloric acid solution (3.5 mL) was added at 0° C. The resulting reaction mixture was stirred for 5 min, and then a solution of sodium nitrite (0.462 g, 0.00668 mol) in water (8.5 mL) was added at 0° C. The mixture was stirred for 1 h at RT, and after completion of reaction (monitored by TLC), the solvent was removed under reduced pressure to obtain product as a brown colored oil (0.8 g).

reactant | 5-Methyl-2-phenylindoline | 0.00334 mol, 0.7 g | CC=1C=C2CC(NC2=CC1)C1=CC=CC=C1 | C15H15N
reactant | hydrochloric acid | 1N, 3.5 mL | Cl | ClH
reactant | sodium nitrite | 0.00668 mol, 0.462 g | N(=O)[O-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 8.5 mL | O | H2O
product | 5-methyl-1-nitroso-2-phenylindoline | 0.8 g | CC=1C=C2CC(N(C2=CC1)N=O)C1=CC=CC=C1 | C15H14N2O
